US06139596
Preparation of N-hydroxymethyl-4-chloro-3-methylpyrazole
116 g (1.0 mol) of 4-chloro-3-methylpyrazole in 50 ml of methanol were dissolved in 100 g (1.0 mol) of formalin solution (30%) at room temperature. Water and methanol were then evaporated. The title compound remained as a white solid (yield 95%).

reactant | 4-chloro-3-methylpyrazole | 1.0 mol, 116 g | ClC=1C(=NNC1)C | C4H5ClN2
reactant | formalin | 1.0 mol, 100 g | C=O | CH2O
solvent | methanol | 50 ml | CO | CH4O
product | N-hydroxymethyl-4-chloro-3-methylpyrazole | yield 95% | OCN1N=C(C(=C1)Cl)C | C5H7ClN2O
